### PR TITLE
feat(Counterexamples): metric space not induced by norm

### PR DESCRIPTION
**Pull request by pechersky**
Because the distance is not homogeneous

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #22845

### CODE REVIEW

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
+/-
+Copyright (c) 2025 Damiano Testa. All rights reserved.
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:2]: Is Damiano really the copyright holder without being the author?

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+  simp [dist_eq_tsum]
+
+noncomputable instance : NormedAddCommGroup (ℕ → ℝ) where
+  __ := PiCountable.metricSpace
+  norm x := dist x 0
+  dist_eq x y := by
+    simpa [← sub_eq_add_neg] using
+      (PiCountable.dist_translation_invariant x y (-y)).symm
+
+lemma PiCountable.norm_single (i : ℕ) (r : ℝ) :
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:56]: I think this and the instance above should be in mathlib proper, since the metric space instance is?

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+    min_eq_left this.le, inv_pos, Nat.ofNat_pos, pow_pos, mul_lt_iff_lt_one_left, this,
+    and_true, gt_iff_lt, abs_inv]
+  norm_num
+
+open PiCountable
+
+/-- Not all distances on a metric space are induced by a norm. Phrased by remarking that
+one can have a `MetricSpace` and even `NormedAddCommGroup` without `BoundedSMul`, which is
+a prerequisite for `NormedSpace`. -/
+theorem not_all_dist_induced_by_norm : ∃ (𝕜 E : Type) (_ : MetricSpace 𝕜) (_ : MetricSpace E)
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:82]: This ends up a little tidier if you don't `push_neg` in your head, since on foralls you can use typeclass binders and drop all one inferInstances

File: Counterexamples/NotBoundedSMulMetricSpace.lean (hunk 2 above)
Comment (pechersky) [reply Counterexamples/NotBoundedSMulMetricSpace.lean:56]: The metric space instance is a def. Do you want me to do the `local instance` in the `PiNat` file?

Comment (eric-wieser) [reply Counterexamples/NotBoundedSMulMetricSpace.lean:56]: Yes, exactly.

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+by scalar multiplication. -/
+lemma dist_homogeneous (c : 𝕜) (x : E) :
+    dist (c • x) 0 = ‖c‖ * dist x 0 := by
+  simp [norm_smul]
+
+end NormInduced
+
+open PiCountable
+
+noncomputable local instance : MetricSpace (ℕ → ℕ) := PiNat.metricSpace
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:41]: Is this used?

File: Counterexamples/NotBoundedSMulMetricSpace.lean (hunk 2 above)
Comment (pechersky) [reply Counterexamples/NotBoundedSMulMetricSpace.lean:56]: `Normed*` isn't imported in the `PiNat` file. Would you like a separate file made?

Comment (eric-wieser) [reply Counterexamples/NotBoundedSMulMetricSpace.lean]: Yes, a new file sounds good.

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 5]
```diff
@@ -0,0 +1,100 @@
...
+
+end NormInduced
+
+open PiCountable
+
+variable {ι : Type*} [Encodable ι] {F : ι → Type*}
+
+noncomputable local instance [∀ i, MetricSpace (F i)] :
+    MetricSpace (Π i, F i) :=
+  PiCountable.metricSpace
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:46]:
```suggestion
attribute [local instance] PiCountable.metricSpace
```
should work too

File: Counterexamples/NotBoundedSMulMetricSpace.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+
+open PiCountable
+
+variable {ι : Type*} [Encodable ι] {F : ι → Type*}
+
+open Encodable
+
+attribute [local instance] PiCountable.normedAddCommGroup
+
+lemma PiCountable.norm_single [DecidableEq ι] [∀ i, NormedAddCommGroup (F i)] (i : ι) (r : F i) :
```
Comment (eric-wieser) [inline Counterexamples/NotBoundedSMulMetricSpace.lean:47]: I think this lemma belongs in the new mathlib file too

File: Mathlib/Topology/MetricSpace/PiNat/Normed.lean [hunk 7]
```diff
@@ -0,0 +1,60 @@
...
+noncomputable section
+
+namespace PiCountable
+
+variable {ι : Type*} [Encodable ι] {F : ι → Type*} [∀ i, NormedAddCommGroup (F i)]
+
+attribute [local instance] PiCountable.metricSpace
+
+@[simp]
+lemma dist_add_right (x y c : Π i, F i) :
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/PiNat/Normed.lean:34]: I think this should be a `have`, since it is immediately superseded by the instance below

**Comment by loefflerd** [comment]
I find it hard to tell precisely what this counterexample is intended to be counter-exemplifying. 

There are inclusions (metric spaces) ⊇ (normed add groups) ⊇ (normed modules over a normed ring). Which of these two inclusions are you trying to show is not an equality?

**Comment by pechersky** [comment]
In this particular case, we have `[Module ℝ (ℕ → ℝ)]`, a normed add comm group that is a module over a normed ring, but they do not give a normed module structure. I could make the counterexample state:
```
theorem not_all_dist_induced_by_norm : ¬ ∀ (𝕜 E : Type)
    [NormedRing 𝕜] [NormedAddCommGroup E] [Module 𝕜 E], BoundedSMul 𝕜 E := by
```

What would be your suggestion at how to clarify what is being counter-exemplified?

**Comment by loefflerd** [comment]
> I could make the counterexample state:
```
theorem not_all_dist_induced_by_norm : ¬ ∀ (𝕜 E : Type)
    [NormedRing 𝕜] [NormedAddCommGroup E] [Module 𝕜 E], BoundedSMul 𝕜 E := by
```
Why would one expect that to be true in the first place? Without any assumption relating the topologies of `𝕜` and `E`, there's no reason to expect any compatibility.

> What would be your suggestion at how to clarify what is being counter-exemplified?

The point of this example (IMHO) is that it is a topological vector space, and the topology is locally convex and metrizable, but there is no normed-space structure which induces this topology. But that is a far stronger statement than showing that *some particular choice of metric* inducing that topology is not induced by a norm. (It is trivial to find examples of metrics on a normed space which are not themselves norms, but induce the same topology as the norm.)

File: Mathlib/Topology/MetricSpace/PiNat/Normed.lean
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/PiNat/Normed.lean:1]: This probably belongs in `Analysis/Normed/PiNat.lean`

File: Mathlib/Topology/MetricSpace/PiNat/Normed.lean [hunk 8]
```diff
@@ -0,0 +1,68 @@
...
+end PiCountable
+
+namespace PiNat
+
+variable {F : ℕ → Type*} [∀ i, NormedAddCommGroup (F i)]
+
+/-- Given a countable family of normed additive groups, one may put a norm on their product
+`Π i, E i`, defining the right topology and uniform structure and matching the metric space.
+It is highly non-canonical, though, and therefore not registered as a global instance.
+The distance we use here is `dist x y = ∑' n, min (1/2)^(encode i) (dist (x n) (y n))`. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/MetricSpace/PiNat/Normed.lean:64]: Can you add the lemma that says the norm is `∑' n, min (1/2)^(encode n) (norm (x n))`?

**Comment by loefflerd** [comment]
> Thanks, that's enlightening. My interpretation of your statement was
> 
> ```
> theorem not_all_dist_induced_by_norm : ¬ ∀ (𝕜 E : Type)
>     [NormedLinearOrderedField 𝕜]
>     [NormedAddCommGroup E]
>     [Module 𝕜 E]
>     [LocallyConvexSpace 𝕜 E]
>     [ContinuousSMul 𝕜 E],
>     BoundedSMul 𝕜 E
>      := by
> ```
> 
> If I need to be more specific about some part of this, please let me know -- I get lost in how to refer how one typeclass induces a different one. In particular, I couldn't make this work easily with `MetrizableSpace`.

Doesn't `[LocallyConvexSpace 𝕜 E]` imply `[ContinuousSMul  𝕜 E]`? The duplication is not a problem anyway, since ContinuousSMul is Prop-valued (I think!), so all instances of it are defeq.

This is now stating something even stronger than I claimed, because you are not only asserting that the topology is metrizable, but that it is induced by an add-group norm (just not one that is compatible with scalar multiplication). So if you can prove this, that's great!

**Comment by loefflerd** [comment]
> > Thanks, that's enlightening. My interpretation of your statement was
> > ```
> > theorem not_all_dist_induced_by_norm : ¬ ∀ (𝕜 E : Type)
> >     [NormedLinearOrderedField 𝕜]
> >     [NormedAddCommGroup E]
> >     [Module 𝕜 E]
> >     [LocallyConvexSpace 𝕜 E]
> >     [ContinuousSMul 𝕜 E],
> >     BoundedSMul 𝕜 E
> >      := by
> > ```

Sorry, correction! This is not, in fact, a formalisation of the statement that I said was the "point" of this counterexample.

The statement I intended is not only that the _given_ add-group norm on E does not satisfy IsBoundedSMul. It is the stronger statement that among all the add-group norms on E inducing the same topology as the given norm (of which there could be many), *none* of them satisfy IsBoundedSMul.
